US07105548B2
2-(3-Bromo-1H-1,2,4-triazol-1-yl)pyridine (0.25 g, 1.12 mmol) and 3-cyanophenylboronic acid (0.33 g, 2.23 mmol) were dissolved in toluene (20 mL) and methanol (2 mL), then deoxygenated via argon bubbling for 10 min. Potassium carbonate (0.23 g, 1.6 mmol) and tetrakis(triphenylphosphine)palladium (129 mg, 0.11 mmol) were then added to the stirred solution. The reaction flask was fitted with a reflux condenser and the mixture stirred at 90° C. for 16 h, after which time it was cooled to ambient temperature and poured into a separatory funnel containing EtOAc (100 mL). The EtOAc solution was washed with H2O (2×100 mL), then brine (100 mL) and the organic phase was dried (MgSO4), filtered and concentrated in vacuo. The resulting crude residue was chromatographed on silica gel eluting with hexanes:EtOAc (40:60)to afford 3-(1-pyridin-2-yl-1H-1,2,4-triazol-3-yl)benzonitrile as a white solid which was then dissolved in dichloromethane (10 mL) and precipitated as the hydrochloride salt (M.p.=185–188° C.) upon treatment with 1M HCl in diethyl ether (1 mL).

reactant | 2-(3-Bromo-1H-1,2,4-triazol-1-yl)pyridine | 1.12 mmol, 0.25 g | BrC1=NN(C=N1)C1=NC=CC=C1 | C7H5BrN4
reactant | 3-cyanophenylboronic acid | 2.23 mmol, 0.33 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | Potassium carbonate | 1.6 mmol, 0.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.11 mmol, 129 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(1-pyridin-2-yl-1H-1,2,4-triazol-3-yl)benzonitrile | N1=C(C=CC=C1)N1N=C(N=C1)C=1C=C(C#N)C=CC1 | C14H9N5
